US07491710B2
170 mg of diphenylphosphinic acid 3-(2,3-dihydro-1H-indol-2-yl)-1H-indazol-5-yl ester are stirred for 10 hours at 100° C. in dimethyl sulfoxide. The solvent is evaporated off under reduced pressure at 30° C. The reaction crude is purified by flash chromatography on silica (8 g Interchim cartridge), eluent: cyclohexane/ethyl acetate 4:6, 2:8; and ethyl acetate/methanol 9:1 to obtain 23 mg of diphenylphosphinic acid 3-(1H-indol-2-yl)-1H-indazol-5-yl ester.

reactant | diphenylphosphinic acid 3-(2,3-dihydro-1H-indol-2-yl)-1H-indazol-5-yl ester | 170 mg | N1C(CC2=CC=CC=C12)C1=NNC2=CC=C(C=C12)OP(=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H22N3O2P
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | diphenylphosphinic acid 3-(1H-indol-2-yl)-1H-indazol-5-yl ester | 23 mg | N1C(=CC2=CC=CC=C12)C1=NNC2=CC=C(C=C12)OP(=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H20N3O2P
